US05883255
9B. (±)-7-[1-[(Aminoacetyl)oxy]propyl]-2-cyano-8-methylindolizino[1,2-b]quinolin-9(11H)-one
The title compound was prepared according to the procedure in Example 3B except using (±)-2-cyano-8-methyl-7-[1-[[[[(1,1-dimethylethoxy)carbonyl]amino]acetyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one. 1H NMR (DMSO-d6) d 8.81 (d, J=1.5 Hz, 1H), 8.77 (s, 1H), 8.27 (d, J=8.9 Hz, 1H), 8.13 (dd, J=8.9, 1.8 Hz, 1H), 7.24 (s, 1H), 5.91 (apparent br t, J=6.7 Hz, 1H), 5.29 (s, 2H), 3.98 (br s, 2H), 2.26 (s, 3H), 2.05-1.81 (m, 2H), 0.96 (t, J=7.4 Hz, 3H). Anal. Calcd for C22H20N4O3.3/2 CF3CO2H.H2O: C, 52.00; H, 4.10; N, 9.70. Found: C, 52.04; H, 4.32; N, 9.73.

reactant | (±)-2-cyano-8-methyl-7-[1-[[[[(1,1-dimethylethoxy)carbonyl]amino]acetyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one | C(#N)C=1C=C2C=C3C(=NC2=CC1)C1=CC(=C(C(N1C3)=O)C)C(CC)OC(CNC(=O)OC(C)(C)C)=O | C27H28N4O5
reactant | CF3CO2H.H2O | C(F)(F)(F)C(=O)O.O
product | (±)-7-[1-[(Aminoacetyl)oxy]propyl]-2-cyano-8-methylindolizino[1,2-b]quinolin-9(11H)-one | NCC(=O)OC(CC)C1=C(C(N2CC=3C(=NC4=CC=C(C=C4C3)C#N)C2=C1)=O)C | C22H20N4O3
